US07851493B2
To a solution of 126 mg of 3-{4-[4-bromomethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-fluoro-phenyl}-4H-[1,2,4]oxadiazol-5-one in 1.3 mL of dimethylformamide was added 43.5 mg of sodium azide. The resulting solution was stirred for 5 h and then concentrated under reduced pressure to give 118 mg of 3-{4-[4-azidomethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-fluoro-phenyl}-4H-1,2,4-oxadiazol-5-one which was used in the next step without further purification.

reactant | 3-{4-[4-bromomethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-fluoro-phenyl}-4H-[1,2,4]oxadiazol-5-one | 126 mg | BrCC=1N=C(SC1COC1=CC(=C(C=C1)C1=NOC(N1)=O)F)C1=CC=C(C=C1)C(F)(F)F | C20H12BrF4N3O3S
reactant | sodium azide | 43.5 mg | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 1.3 mL | CN(C=O)C | C3H7NO
product | 3-{4-[4-azidomethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-fluoro-phenyl}-4H-1,2,4-oxadiazol-5-one | 118 mg | N(=[N+]=[N-])CC=1N=C(SC1COC1=CC(=C(C=C1)C1=NOC(N1)=O)F)C1=CC=C(C=C1)C(F)(F)F | C20H12F4N6O3S
